US06172085B2
2,3-Dihydro-2,4,6,7-tetramethyl-2-[[4-(3-phenylpropionyl)-1-piperazinyl]methyl]-5-benzofuranamine
Using 2,3-dihydro-2,4,6,7-tetramethyl-2-[(1-piperazinyl)methyl]-5-benzofuranamine and 3-phenylpropionic acid, the procedure of Example 10 was otherwise repeated to provide the title compound. Yield 73%.

reactant | 2,3-dihydro-2,4,6,7-tetramethyl-2-[(1-piperazinyl)methyl]-5-benzofuranamine | CC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)CN2CCNCC2 | C17H27N3O
reactant | 3-phenylpropionic acid | C1(=CC=CC=C1)CCC(=O)O | C9H10O2
product | 2,3-Dihydro-2,4,6,7-tetramethyl-2-[[4-(3-phenylpropionyl)-1-piperazinyl]methyl]-5-benzofuranamine | Yield 73% | CC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)CN2CCN(CC2)C(CCC2=CC=CC=C2)=O | C26H35N3O2
